US07390903B2
To a stirred solution of 1.0 g (2.79 mmol) 2-amino-3-benzoyl-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid tert-butyl ester (the preparation of which is described in example 23) in 15 ml acetic acid was added 0.70 g (5.55 mmol) of 1-cyclopropyl-butane-1,3-dione and three drops of sulfuric acid. The mixture was then stirred at 100° C. for 30 minutes and then concentrated in vacuo. Flash chromatography (dichloromethane/methanol 95:5) afforded 0.47 g (48%) cyclopropyl-(2-methyl-4-phenyl-5,6,7,8-tetrahydro-9-thia-1,7-diaza-fluoren-3-yl)-methanone as a brown oil. ES-MS m/e (%): 349 (M+H+, 100).

reactant | 2-amino-3-benzoyl-4,7-dihydro-5H-thieno[2,3-c]pyridine-6-carboxylic acid tert-butyl ester | 2.79 mmol, 1.0 g | C(C)(C)(C)OC(=O)N1CC2=C(CC1)C(=C(S2)N)C(C2=CC=CC=C2)=O | C19H22N2O3S
reactant | 1-cyclopropyl-butane-1,3-dione | 5.55 mmol, 0.70 g | C1(CC1)C(CC(C)=O)=O | C7H10O2
solvent | acetic acid | 15 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | three drops | S(O)(O)(=O)=O | H2O4S
product | cyclopropyl-(2-methyl-4-phenyl-5,6,7,8-tetrahydro-9-thia-1,7-diaza-fluoren-3-yl)-methanone | 0.47 g, 48% | C1(CC1)C(=O)C=1C(=NC=2SC=3CNCCC3C2C1C1=CC=CC=C1)C | C21H20N2OS
